; ================================================================
; 2stage_spdt_switch_research.net
; Research netlist -- 2-stage SPDT switch
; Purpose: Phase 3 verification example for net2ads pipeline
; Scope: topology + ports + nominal values only, no simulation setup
;
; Topology intent:
;   SPDT with one input port (P1) and two output ports (P2, P3).
;   Each path uses TWO series switches in cascade (2-stage insertion
;   loss improvement) with inter-stage R/L matching and one shunt
;   switch at the output for isolation.
;
; Compared to single-stage spdt_switch:
;   - Adds SW_SERIES_A2 / SW_SERIES_B2 (second series FET per path)
;   - Adds RMATCH_A / LMATCH_A inter-stage matching networks
;   - Tests that placement_engine correctly chains series FETs
;     and that connectivity checker passes all intermediate nodes
;
; State annotation for this example:
;   Path A active: P1 -> P2  (both series FETs ON, shunt FET OFF)
;   Path B off:    P1 -/-> P3 (both series FETs OFF, shunt FET ON)
;
; Notes:
;   SW elements are placeholders resolved by fet_bias_preprocessor.py
;   via the companion 2stage_spdt_switch_sw_map.yaml.
; ================================================================

.SUBCKT TWO_STAGE_SPDT_SWITCH P1 P2 P3 0

; -- Ports -------------------------------------------------------
PORT:P1  P1
PORT:P2  P2
PORT:P3  P3

; ================================================================
; COMMON INPUT NODE
; ================================================================
R:RIN_PAD   P1      N_IN    R=0.05 Ohm
L:LIN_PAD   N_IN    N_COM   L=10 pH

; ================================================================
; PATH A -- active branch to P2
;   Stage 1: SW_SERIES_A1 ON
;   Inter-stage: R/L matching network
;   Stage 2: SW_SERIES_A2 ON
;   Output shunt: SW_SHUNT_A OFF (path active)
; ================================================================
; Stage 1 series switch
SW:SW_SERIES_A1   N_COM   N_A1    State=ON

; Inter-stage matching (between the two series switches)
R:RMATCH_A        N_A1    N_A1R   R=0.05 Ohm
L:LMATCH_A        N_A1R   N_A1L   L=20 pH

; Stage 2 series switch
SW:SW_SERIES_A2   N_A1L   N_A2    State=ON

; Output path resistor (bonding pad / metal resistance)
R:RPATH_A         N_A2    N_A3    R=0.10 Ohm

; Output shunt: OFF when path A is active
SW:SW_SHUNT_A     N_A3    N_AST   State=OFF
R:RTERM_A         N_AST   0       R=50 Ohm

; Output port
R:ROUT_A          N_A3    P2      R=0.05 Ohm

; ================================================================
; PATH B -- off branch to P3
;   Stage 1: SW_SERIES_B1 OFF
;   Inter-stage: R/L matching network
;   Stage 2: SW_SERIES_B2 OFF
;   Output shunt: SW_SHUNT_B ON (path off, providing isolation)
; ================================================================
; Stage 1 series switch
SW:SW_SERIES_B1   N_COM   N_B1    State=OFF

; Inter-stage matching
R:RMATCH_B        N_B1    N_B1R   R=0.05 Ohm
L:LMATCH_B        N_B1R   N_B1L   L=20 pH

; Stage 2 series switch
SW:SW_SERIES_B2   N_B1L   N_B2    State=OFF

; Output path resistor
R:RPATH_B         N_B2    N_B3    R=0.10 Ohm

; Output shunt: ON when path B is off (provides isolation)
SW:SW_SHUNT_B     N_B3    N_BST   State=ON
R:RTERM_B         N_BST   0       R=50 Ohm

; Output port
R:ROUT_B          N_B3    P3      R=0.05 Ohm

.ENDS TWO_STAGE_SPDT_SWITCH
