; ================================================================
; rc_series_shunt_research.net
; Research netlist -- RC network with series resistor and shunt capacitor
; Purpose: experiment input for net2ads flow
; Scope: topology + ports + nominal values only, no simulation setup
;
; Topology:
;   Port1 -- R1(series) -- node_out -- Port2
;                               |
;                               C1(shunt)
;                               |
;                              GND
; ================================================================

.SUBCKT RC_SERIES_SHUNT P1 P2 0

; -- Ports -------------------------------------------------------
PORT:P1  P1
PORT:P2  P2

; -- Functional grouping: series path ----------------------------
R:R1_SER  P1      N_OUT   R=50 Ohm

; -- Functional grouping: shunt branch ---------------------------
C:C1_SH   N_OUT   0       C=2.0 pF

; -- Output tie --------------------------------------------------
R:R_TIE   N_OUT   P2      R=0 Ohm

.ENDS RC_SERIES_SHUNT
