; ================================================================
; spdt_switch_research.net
; Research netlist -- SPDT switch, idealized topology-level model
; Purpose: experiment input for net2ads flow
; Scope: topology + ports + nominal values only, no simulation setup
;
; Topology intent:
;   SPDT with one input port and two output ports.
;   Series devices connect the input path to the selected output.
;   Shunt devices provide isolation / absorptive termination.
;
; State annotation for this example:
;   Path A active: P1 -> P2
;   Path B off:    P1 -/-> P3
;
; Notes:
;   Device names are placeholders for later ADS / PDK mapping.
;   The later ADS-oriented translation step can map:
;     SW_SERIES_*  -> series FET implementation cells
;     SW_SHUNT_*   -> shunt FET implementation cells
;     RTERM_*      -> absorptive termination resistors
; ================================================================

.SUBCKT SPDT_SWITCH P1 P2 P3 0

; -- Ports -------------------------------------------------------
PORT:P1  P1
PORT:P2  P2
PORT:P3  P3

; ================================================================
; COMMON INPUT NODE
; ================================================================
R:RIN_PAD   P1      N_IN    R=0.05 Ohm
L:LIN_PAD   N_IN    N_COM   L=10 pH

; ================================================================
; PATH A -- active branch to P2
;   Series switch ON, shunt switch OFF
; ================================================================
SW:SW_SERIES_A   N_COM   N_A1    State=ON
R:RPATH_A        N_A1    N_A2    R=0.10 Ohm
L:LPATH_A        N_A2    N_A3    L=40 pH
SW:SW_SHUNT_A    N_A3    N_AST   State=OFF
R:RTERM_A        N_AST   0       R=50 Ohm
R:ROUT_A         N_A3    P2      R=0.05 Ohm

; ================================================================
; PATH B -- off branch to P3
;   Series switch OFF, shunt switch ON
; ================================================================
SW:SW_SERIES_B   N_COM   N_B1    State=OFF
R:RPATH_B        N_B1    N_B2    R=0.10 Ohm
L:LPATH_B        N_B2    N_B3    L=40 pH
SW:SW_SHUNT_B    N_B3    N_BST   State=ON
R:RTERM_B        N_BST   0       R=50 Ohm
R:ROUT_B         N_B3    P3      R=0.05 Ohm

.ENDS SPDT_SWITCH
