; ================================================================
; t_network_lcl_research.net
; Research netlist -- LCL T-network low-pass filter
; Purpose: experiment input for net2ads flow
; Scope: topology + ports + nominal values only, no simulation setup
;
; Topology:
;   Port1 -- L1(series) -- node_mid -- L2(series) -- Port2
;                              |
;                              C1(shunt)
;                              |
;                             GND
; ================================================================

.SUBCKT T_NETWORK_LCL P1 P2 0

; -- Ports -------------------------------------------------------
PORT:P1  P1
PORT:P2  P2

; -- Functional grouping: series path ----------------------------
L:L1_SER  P1     N_MID   L=3.3 nH
L:L2_SER  N_MID  P2      L=3.3 nH

; -- Functional grouping: shunt branch ---------------------------
C:C1_SH   N_MID  0       C=1.2 pF

.ENDS T_NETWORK_LCL
