; ================================================================
; two_quarter_wave_lines_research.net
; Research netlist -- cascaded two quarter-wave transmission lines
; Purpose: experiment input for net2ads flow
; Scope: topology + ports + nominal values only, no simulation setup
;
; Topology:
;   Port1 -- TLIN1(lambda/4) -- node_mid -- TLIN2(lambda/4) -- Port2
;
; Notes:
;   Electrical length is expressed explicitly for topology intent.
;   The later ADS-oriented translation step can map TLIN to the proper
;   ADS transmission-line primitive and technology-specific parameters.
; ================================================================

.SUBCKT TWO_QW_TLINES P1 P2 0

; -- Ports -------------------------------------------------------
PORT:P1  P1
PORT:P2  P2

; -- Functional grouping: cascaded transmission lines ------------
TLIN:TL1  P1      N_MID   Z0=50 Ohm   ELength=90 deg   Fref=10 GHz
TLIN:TL2  N_MID   P2      Z0=70.7 Ohm ELength=90 deg   Fref=10 GHz

.ENDS TWO_QW_TLINES
